US08389523B2
2.1 g (7.5 mmol) of ethyl 1-(methylthiomethyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in dichloromethane (10 mL), and 1.3 g (9.8 mmol) of sulfuryl chloride was added dropwise at or below 10° C. The mixture was stirred for 2 hours at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure, to obtain ethyl 1-(chloromethyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate. The chloromethylation product thus obtained was used in the subsequent reaction without purification.

reactant | ethyl 1-(methylthiomethyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 7.5 mmol, 2.1 g | CSCN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C13H14N2O3S
reactant | sulfuryl chloride | 9.8 mmol, 1.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 1-(chloromethyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | ClCN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C12H11ClN2O3
